US07514570B2
A solution of methyl 3,5-dimethylbenzoate (50 g; 300 mmol) in DME (80 ml) was added to a suspension of NaH (26.8 g; 60% in oil; 670 mmol) in DME (80 ml) under argon. The mixture was heated to reflux and a solution of methyl acetate (45 g; 610 mmol) in DME (40 ml) added dropwise. The mixture was heated for a further 4 h under reflux. The mixture was cooled and the excess of NaH destroyed by the dropwise addition of MeOH (40 ml). The mixture was poured into dilute HCl (2N), extracted with Et2O and the organic phase was washed with water, brine and dried over MgSO4. The residue was purified by flash chromatography eluting with Et2O/hexanes (10% Et2O) to give methyl 4-(3′,5′-dimethylphenyl)acetoacetate as a yellow oil (31 g).

reactant | methyl 3,5-dimethylbenzoate | 300 mmol, 50 g | CC=1C=C(C(=O)OC)C=C(C1)C | C10H12O2
reactant | NaH | 670 mmol, 26.8 g | [H-].[Na+]
reactant | methyl acetate | 610 mmol, 45 g | C(C)(=O)OC | C3H6O2
reactant | DME | 80 ml | COCCOC | C4H10O2
reactant | DME | 80 ml | COCCOC | C4H10O2
reactant | DME | 40 ml | COCCOC | C4H10O2
product | methyl 4-(3′,5′-dimethylphenyl)acetoacetate | 31 g, Yield: 50% | CC=1C=C(C=C(C1)C)CC(CC(=O)OC)=O | C13H16O3
